2198-06-13 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Repeat CE at 10pm trending down: CK:327 MB:14 MBI:4.3 Trop-T:4.15
   Patient remained chest pain free
   NPO for cath
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.4 mcg/Kg/min
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-13**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 77 (77 - 96) bpm
   BP: 92/51(61) {92/42(57) - 123/75(85)} mmHg
   RR: 22 (21 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    231 mL
                                                                    297 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     31 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                      0 mL
   Urine:
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -289 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Gen: Thin, elderly male in NAD. Oriented x3. Mood, affect appropriate.
   Neck: Supple with flat neck veins.
   CV: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. bibasilar crackles [**1-6**] of the way
   up, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No C/C/E.
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP 1+
   Left: Carotid 2+ Femoral 2+ DP 1+
   Labs / Radiology
   322 K/uL
   10.5 g/dL
   209 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   49 mg/dL
   100 mEq/L
   139 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2198-6-12**]  09:38 PM
                             [**2198-6-13**]  05:31 AM
   WBC
   10.7
   Hct
   29.6
   Plt
   322
   Cr
   1.9
   TropT
   4.15
   Glucose
   209
   Other labs: PT / PTT / INR:15.9/70.4/1.4, CK / CKMB /
   Troponin-T:210/14/4.15, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 PEPTIC ULCER DISEASE (PUD)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 PULMONARY EDEMA
   81 yo male with history of HTN and diabetes who presented to OSH with
   SOB/CP found to have [**Hospital 3650**] transferred to [**Hospital1 19**] for cardiac cath and
   to CCU for ongoing monitoring in setting of recurrent CP and new RBBB.
   #. CAD:  Pt sustained NSTEMI. Lesions likely represent LAD
   distribution. Remained CP free overnight. Plan is fpr c.cath today.
   - NPO, patient for cath this AM
   - mucomyst and Bicarb for pre-cath hydration
   - Continue heparin and nitro gtt
   - hold Integrilin given [**Last Name (un) **]
   - High dose statin
   - ASA
   - cont low dose BB, metoprolol 12.5mg [**Hospital1 7**] for now in setting of new
   acute conduction abnormality
   - f/u ECG this AM
   - Hold home ACE-I in setting of  [**Last Name (un) **]
   - Continue clopidogrel 75 mg (loaded with 600mg at OSH)
   - f/u lipid panel and HbA1c
   #. Pump: Evidence of volume overload given crackles on exam, elevated
   BNP . EF unknown, however pt is noted to be on Lasix as an outpatient.
   Suspect acute ischemia as major contributing etiology; at this time
   -ECHO today
   -Monitor I/Os  (even to -500cc negative)
   -defer diuresis at this time given [**Last Name (un) **] and plan for cath in AM
   #. Rhythm: NSR per OSH EKGs. RBB present on old ECG
s so could be rate
   related.
   - Monitor on telemetry for now.
   - ECG this AM
   #. [**Last Name (un) **] on CKD: Slight improvement in Cr overnight 2
1.9. Exact etiology
   unclear, however by report pt had some urinary retention at OSH and has
   now improved s/p Foley catheter placement.
   - mucomyst and pre-cath hydration as above.
   - continue to hold ACEi
   - trend SCr
   - pt may require more aggressive BPH regimen once acute issues resolved
   and Foley removed
   - avoid nephrotoxins and renally dose meds
   #. Urinary Tract Infection:  Complicated UTI by definition. Received
   one dose IV levofloxacin at OSH yesterday.
   - Ciprofloxacin 500 mg Q24H x 6 additional doses  (renally dosed)
will
   likely treat for 7 days but could be longer depending on when foley can
   be dc
   - f/u UA and Ucx
   - Follow-up urine culture sensitivities
   - Follow-up blood culture from [**Hospital3 **]
   #. GERD:  Cont H2 blocker
   - Ranitidine 150 mg [**Hospital1 7**]
   #. Diabetes:
   - Hold home metformin, glimepiride, rosiglitazone
   - ISS
   - f/u HbA1c
   #. PVD: Currently appear sstable.
   - ASA, heparin
   #. Leukocytosis Likely related to acute ischemia and UTI. Pt currently
   afebrile without other evidence of infection. Continue treatment for
   UTI; trend.
   # Anemia: Baseline HCT unknown, however current HCT stable from OSH. No
   evidence of active bleeding. Nearly microcytic. f/u Fe studies.
   ICU Care
   Nutrition: NPO for cath
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2198-6-12**] 08:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 45 minutes of critical care time.
   Additional comments:
   IABP, MI< left main disease
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2198-6-13**] 18:12 ------